US07745636B2
(S)-tert-butyl 1-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-methylpropylcarbamate
A solution of 2-bromo-1-(4-bromophenyl)ethanone (6.23 g, 22.3 mmol) and N-Boc-L-Valine (5.00 g, 23.0 mmol) in dry CH3CN (30 mL) was treated with iPr2NEt (4.40 mL, 25.3 mmol) and the solution was allowed to stir at rt overnight. The solvent was removed in vacuo and the resulting slurry was partitioned between EtOAc and H2O. The layers were separated and the aq phase was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give a yellow oil. LCMS: Anal. Calcd. for C18H24BrNO5: 413, 415; found: 412, 414 (M−H)−. The residue was suspended in toluene (60 mL) and NH4OAc (8.61 g, 111.7 mmol) was added. The mixture was heated reflux for 16 h with azeotropic removal of H2O (Dean-Stark). The mixture was cooled to rt and concentrated to dryness in vacuo. The residue was purified column chromatography (biotage) eluting with 10% MeOH in CH2Cl2 to afford the title compound (8.55 g, 94%) as a yellow foam. 1HNMR (500 MHz, CD3OD) δ 7.84 (s, 1H), 7.66 (app d, J=8.9 Hz, 2H), 7.64 (app d, J=8.9 Hz, 2H), 4.65 (d, J=7.7 Hz, 1H), 2.23-2.27 (m, 1H), 1.42 (s, 9H), 1.07 (d, J=6.5 Hz, 3H), 0.93 (d, J=6.5 Hz, 3H). LCMS: Anal. Calcd. for C18H24BrN3O2: 393, 395; found: 394, 396 (M+H)+.

reactant | 2-bromo-1-(4-bromophenyl)ethanone | 22.3 mmol, 6.23 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | N-Boc-L-Valine | 23.0 mmol, 5.00 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | iPr2NEt | 25.3 mmol, 4.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | H2O | O | H2O
reactant | CH3CN | 30 mL | CC#N | C2H3N
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-butyl 1-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-methylpropylcarbamate | 8.55 g, 94% | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H](C(C)C)NC(OC(C)(C)C)=O | C18H24BrN3O2
